US07572809B2
a) Preparation of 3-(3,5-Dimethoxy-phenyl)-acrylic acid
To a solution of 3,5-Dimethoxy-benzaldehyde (9.5 g, 57.17 mmol) in pyridine (60 ml), malonic acid (9 g, 85.725 mmol) was added, and followed by piperidine (2 ml), the mixture was heated to 100° C. and stirred at this temperature for 6 hs under N2. Then most of pridine was removed, and the residue was poured into water (250 ml), acidified to PH=3 by aq.HCl, the precipitate was collected and dried to give product (10.9 g, 91.8%). LC-MS: m/e 207 (M−1)

reactant | 3,5-Dimethoxy-benzaldehyde | 57.17 mmol, 9.5 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | malonic acid | 85.725 mmol, 9 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 2 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 3-(3,5-Dimethoxy-phenyl)-acrylic acid | 10.9 g, 91.8% | COC=1C=C(C=C(C1)OC)C=CC(=O)O | C11H12O4
